US04192880
Preparation of 2-(2-methylpyridin-5-yl) benzimidazole
11.9 g. of o-phenylenediamine, 13.7 g. of 2-methylpyridine-5-carboxylic acid and 100 g. of polyphosphoric acid were stirred under nitrogen gas current at 180° C. to 200° C. for 4 hours. To the reaction mixture were added 800 ml. of water and then a concentrated aqueous solution of sodium carbonate to neutrality. The resulting crystals were filtered off, dried and recrystallized from acetonitrile to give 15.7 g. of colorless needles of the product (75% of theory), M.P. 265.5°-266.0° C.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2-methylpyridine-5-carboxylic acid | CC1=NC=C(C=C1)C(=O)O | C7H7NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-(2-methylpyridin-5-yl) benzimidazole | CC1=NC=C(C=C1)C=1NC2=C(N1)C=CC=C2 | C13H11N3
